US07994185B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclohexanesulfonamide
3-(5-(2-Chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline (200 mg, 0.510 mmol) was suspended in pyridine (2 mL) and after 5 min, cyclohexanesulfonyl chloride (0.148 mL 1.021 mmol) was added. The mixture was stirred overnight. Additional cyclohexanesulfonyl chloride (0.100 mL 0.69 mmol) was added and stirred overnight. Silica gel was added the reaction mixture and concentrated. The crude product was chromatographed on silica gel eluting with DCM and 9:1 (EtOAc:MeOH). The product was chromatographed again with 9:1 hexane:EtOAc increasing to 1:1 gradient. The clean fractions were concentrated to yield the title compound of Step A (102 mg, 37% yield). A second reaction was run (46 mg, 17% yield) same scale and combined to yield the title compound of Step A (148 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.70 (s, 1H) 8.34 (d, J=5.5 Hz, 1H) 7.55 (td, J=7.6, 2.0 Hz, 2H) 7.14-7.38 (m, 3H) 6.65 (d, J=5.5 Hz, 1H) 3.68 (t, J=4.7 Hz, 4H) 3.52 (t, J=4.6 Hz, 4H) 2.79-3.04 (m, 1H) 2.01 (d, J=11.4 Hz, 2H) 1.69 (d, J=13.0 Hz, 3H) 1.47-1.63 (m, 2H) 1.26-1.42 (m, 3H) 0.84 (t, J=7.4 Hz, 1H).

reactant | 3-(5-(2-Chloropyrimidin-4-yl)-2-morpholinothiazol-4-yl)-2-fluoroaniline | 0.510 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1)F | C17H15ClFN5OS
reactant | cyclohexanesulfonyl chloride | 1.021 mmol, 0.148 mL | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
reactant | cyclohexanesulfonyl chloride | 0.69 mmol, 0.100 mL | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}cyclohexanesulfonamide | 102 mg, 37% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1CCCCC1)F | C23H25ClFN5O3S2
